US05691364
To 5-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzene-1,3-dicarboxylic acid, diethyl ester (0.97 g, 2.0 mmol) in tetrahydrofuran/water (20 mL, 1/1) was added lithium hydroxide (0.42 g, 10 mmol). After heating at 60° C. for 90 minutes, the material was partitioned between ethyl acetate and 2N HCl. The organic layer was separated, dried (MgSO4), and the solvent removed in vacuo to give 5-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzene-1,3-dicarboxylic acid; NMR (DMSO) 8.25 (s,1), 7.85 (s,2), 7.4-7.7 (m,3), 7.3 (m,3), 2.4 (s,3) ppm.

reactant | 5-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzene-1,3-dicarboxylic acid, diethyl ester | 2.0 mmol, 0.97 g | C(#N)C=1C=C(OC2=C(C(=C(C(=N2)OC=2C=C(C=C(C2)C(=O)OCC)C(=O)OCC)F)C)F)C=CC1 | C25H20F2N2O6
reactant | lithium hydroxide | 10 mmol, 0.42 g | [OH-].[Li+]
solvent | tetrahydrofuran water | 20 mL | O1CCCC1.O
product | 5-[(6-(3-cyanophenoxy)-3,5-difluoro-4-methylpyridin-2-yl)oxy]benzene-1,3-dicarboxylic acid | C(#N)C=1C=C(OC2=C(C(=C(C(=N2)OC=2C=C(C=C(C2)C(=O)O)C(=O)O)F)C)F)C=CC1 | C21H12F2N2O6
